US06875765B2
To a −65° C. solution of lithium aluminum hydride (0.51 mL, 1M in diethyl ether) in diethyl ether (5 mL) was added a solution of 3-[4-carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester (0.10 g, 0.17 mmol) in diethyl ether (5 mL). The reaction was stirred at −65° C. for 2 h. The reaction was then diluted with ethyl acetate (100 mL) and washed with 10% potassium hydrogen sulfate and then saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield (S)-3-[4-carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester as a clear oil. MS(APCI) m/z 528.1 (M−H).

reactant | lithium aluminum hydride | 1M, 0.51 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-[4-carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-N-methoxy-N-methyl-succinamic acid tert-butyl ester | 0.17 mmol, 0.10 g | C(C)(C)(C)OC(CC(C(=O)N(C)OC)NS(=O)(=O)C1=C(C=C(C=C1)C(N)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C28H34N4O8S
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-[4-carbamoyl-2-(2-quinolin-5-yl-ethoxy)-benzenesulfonylamino]-4-oxo-butyric acid tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C=O)NS(=O)(=O)C1=C(C=C(C=C1)C(N)=O)OCCC1=C2C=CC=NC2=CC=C1)=O | C26H29N3O7S
